US04400393
To a tetrahydrofuran (200 ml) solution of dimethyl methylphosphonate (20.2 g) was added a 1.6 M hexane solution of n-butyl lithium (100 ml) at -60° C. under nitrogen. To this mixture was added a THF solution of 1-adamantyl carboxylic acid chloride (30 g) and it was stirred at the same temperature for 5 hrs and at room temperature for 12 hrs. The mixture was diluted with water and extracted with diethyl ether. The extract was dried and concentrated in vacuo. After the residue was distilled off the volatile impurity (~200° C./0.6 mmHg), there was obtained dimethyl 2-oxo-2-(1-adamantyl)-ethylphosphonate as an oil.

reactant | dimethyl methylphosphonate | 20.2 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | 100 ml | C(CCC)[Li]
reactant | 1-adamantyl carboxylic acid chloride | 30 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | dimethyl 2-oxo-2-(1-adamantyl)-ethylphosphonate | O=C(CP(OC)(OC)=O)C12CC3CC(CC(C1)C3)C2 | C14H23O4P
